US06384036B1
Part B: Preparation of 3-(4-tert-butoxycarbonylpiperizin-1-ylsulfonyl)-2(R)-methylpropionic acid
A 300 mL Fisher Porter vessel equipped with magnetic stirring bar was charged with 7.2 g benzyl 3-(4-tert-butoxycarbonylpiperizin-1-ylsulfonyl)-2(R)-methylpropionate, 600 mg 10% Pd—C, and 100 mL MeOH. The reaction vessel was charged with 50 psi H2 and stirred for 2 hours at room temperature. The reaction mixture was filtered thru Celite and concentrated in vacuo to yield 5.25 g (93%) white solid. The free acid was used without further purification.

reactant | benzyl 3-(4-tert-butoxycarbonylpiperizin-1-ylsulfonyl)-2(R)-methylpropionate | 7.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C20H30N2O6S
catalyst | Pd—C | 600 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 3-(4-tert-butoxycarbonylpiperizin-1-ylsulfonyl)-2(R)-methylpropionic acid | 5.25 g, 93% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C | C13H24N2O6S
